US06083985
(4) Preparation of 2-benzyl 3-tert-butyl (2S,3S)-5-oxotetrahydrofuran-2,3-dicarboxylate
To 7.93 g of (2S,3R)-2-benzyloxycarbonyl-5-oxotetrahydrofuran-3-carboxylic acid in 75 ml of chloroform, 5.5 g of 4-dimethylaminopyridine, 8.6 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride and 5.7 ml of tert-butyl alcohol were successively added, and the resulting reaction solution was stirred at room temperature for 60 hours. The reaction solution was poured into 1N hydrochloric acid cooled with ice and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, the desiccant was filtered off, the solvent was evaporated in vacuo, and the residue was purified by silica gel column chromatography [hexane/ethyl acetate=5/1] to give 6.48 g of the title compound as a white solid.

reactant | (2S,3R)-2-benzyloxycarbonyl-5-oxotetrahydrofuran-3-carboxylic acid | 7.93 g | C(C1=CC=CC=C1)OC(=O)[C@H]1OC(C[C@H]1C(=O)O)=O | C13H12O6
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 8.6 g | Cl.C(C)N=C=NCCCN(C)C
reactant | tert-butyl alcohol | 5.7 ml | C(C)(C)(C)O | C4H10O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | chloroform | 75 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | 4-dimethylaminopyridine | 5.5 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-benzyl 3-tert-butyl (2S,3S)-5-oxotetrahydrofuran-2,3-dicarboxylate | 6.48 g | O=C1C[C@@H]([C@H](O1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C17H20O6
